US08871788B2
6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-2-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-isoquinoline
6-Bromo-2-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-isoquinoline (4.32 g, 11.8 mmol, 1 eq), NaOt-Bu (1.64 g, 17.11 mmol, 1.45 eq), Pd2(dba)3 (110 mg, 0.12 mmol, 0.01 eq) and BINAP (221 mg, 0.354 mmol, 0.03 eq) were combined in a round-bottomed flask and purged with nitrogen. 30 mL of dry toluene was added and the solution became red slurry. To this was added a solution of (2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl (2 g, 13 mmol, 1.1 eq) in 30 mL of dry toluene. The reaction mixture was heated to 85° C. and stirred overnight. The reaction mixture was cooled to rt and quenched with 50 mL of water. This was transferred to a separatory funnel along with 100 mL of brine. The organics were extracted with ethyl acetate (2×100 mL), where they were combined, dried over Na2SO4, concentrated under vacuum and purified by column chromatography on silica gel (200 g column; 50 mL/min; 5% MeOH in CH2Cl2), which afforded 4.02 g (78%) of the title compound as an orange solid.

reactant | 6-Bromo-2-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-isoquinoline | 11.8 mmol, 4.32 g, 1 eq | BrC=1C=C2CCN(CC2=CC1)S(=O)(=O)C1=CC=C(C=C1)C | C16H16BrNO2S
reactant | NaOt-Bu | 17.11 mmol, 1.64 g, 1.45 eq | CC(C)(C)[O-].[Na+]
reactant | (2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl | 13 mmol, 2 g, 1.1 eq | C[C@@H]1N(CCC1)[C@@H]1CNCC1 | C9H18N2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.12 mmol, 110 mg, 0.01 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BINAP | 0.354 mmol, 221 mg, 0.03 eq | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | 6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-2-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-isoquinoline | 4.02 g, 78% | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=C2CCN(CC2=CC1)S(=O)(=O)C1=CC=C(C=C1)C | C25H33N3O2S
